US08455528B2
To a solution of methyl 5-bromopyridine-2-carboxylate (5.0 g, 23.1 mg) in dioxane (80 ml) was added Pd(PPh3)4 (1.34 g, 1.16 mmol) and tributyl(1-ethoxyethenyl)stannane (8.60 ml, 25.5 mmol). After stirring the reaction mixture at reflux temp for overnight, the mixture was diluted with ethyl acetate, washed with 10% KF solution (aqueous), filtered though celite, dried, concentrated, and separated by HPLC (8-70% EtOH in hexane) to give methyl 5-(1-ethoxyethenyl)pyridine-2-carboxylate (4.8 g). LCMS: [M+H]+=208.2

reactant | methyl 5-bromopyridine-2-carboxylate | 5.0 g | BrC=1C=CC(=NC1)C(=O)OC | C7H6BrNO2
reactant | tributyl(1-ethoxyethenyl)stannane | 25.5 mmol, 8.60 ml | C(CCC)[Sn](C(=C)OCC)(CCCC)CCCC
solvent | dioxane | 80 ml | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | Pd(PPh3)4 | 1.16 mmol, 1.34 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | methyl 5-(1-ethoxyethenyl)pyridine-2-carboxylate | 4.8 g | C(C)OC(=C)C=1C=CC(=NC1)C(=O)OC | C11H13NO3
